US05206238
Preparation of 1-methyl-2-[1-(S)-methoxycarbonyl-2-phenylethylamino]methyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine
1-Methyl-2-chloromethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine (150 mg, 0.5 mmole) and methyl-2(S)-amino-3-phenylpropionate (108 mg, 0.5 mmole) were combined in 4 ml of dry N,N-dimethylformamide, and potassium carbonate (138 mg, 1 mmole) and sodium iodide (70 mg, 0.5 mmole) were added to this mixture. The reaction mixture was protected from moisture and heated at 60° C. for 48 hours. The solvent was then removed under reduced pressure and the residue was partitioned between ethyl acetate (100 ml) and saturated sodium bicarbonate solution (50 ml). The phases were separated and the organic layer was washed with sodium bicarbonate solution and brine, then dried (MgSO4) and concentrated to yield 300 mg of crude product. The analytical product was obtained via chromatography on silica gel (ethyl acetate-hexane elution, 7:3 v/v) as a mixture of diasteriomers; 95% pure by HPLC.

reactant | 1-Methyl-2-chloromethyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine | 0.5 mmole, 150 mg | CN1C(CN=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)CCl | C17H16ClFN2
reactant | methyl-2(S)-amino-3-phenylpropionate | 0.5 mmole, 108 mg | COC([C@H](CC1=CC=CC=C1)N)=O | C10H13NO2
reactant | potassium carbonate | 1 mmole, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.5 mmole, 70 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-methyl-2-[1-(S)-methoxycarbonyl-2-phenylethylamino]methyl-5-(2'-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine | CN1C(CN=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)CN[C@@H](CC2=CC=CC=C2)C(=O)OC | C27H28FN3O2
